US08372307B2
A solution of 3-(4′-Propyl-bicyclohexyl-4-yl)-propionic acid ethyl ester (22.0 g, 70 mmol) in THF (150 ml) is added dropwise to a suspension of lithium-aluminiumhydride (3.25 g, 86 mmol) in THF (250 ml) at reflux temperature. The reaction is heated under reflux for 1 h, cooled and poured onto sat. ammonium chloride solution. The mixture is acidified, extracted with ether and the combined organic layers are washed with brine and dried over sodium sulfate. The solvent is evaporated and the crude product is crystallised from isopropanol to give 3-(4′-propyl-bicyclohexyl-4-yl)-propan-1-ol as colourless crystals.

reactant | 3-(4′-Propyl-bicyclohexyl-4-yl)-propionic acid ethyl ester | 70 mmol, 22.0 g | C(C)OC(CCC1CCC(CC1)C1CCC(CC1)CCC)=O | C20H36O2
reactant | lithium-aluminiumhydride | 86 mmol, 3.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 3-(4′-propyl-bicyclohexyl-4-yl)-propan-1-ol | C(CC)C1CCC(CC1)C1CCC(CC1)CCCO | C18H34O
